US07598264B2
Step 10: N-[6-(4-fluorobenzyl)-4-hydroxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-1-yl]-N-methylacetamide
To N-[6-(4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-1-yl]-N-methylacetamide (0.070 g, 0.181 mmol) was dissolved in 1 mL glacial acetic acid and 0.75 mL 30% by weight HBr in acetic acid solution was added. The reaction was stirred for 1.5 hours, water was added and the reaction evaporated to dryness under vacuum. The residue was purified on reverse phase and the fractions collected and evaporated. The residue was dissolved in dioxane, from which crystals formed and were collected. The crystals were dried under vacuum with heat to give the product.

reactant | N-[6-(4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-1-yl]-N-methylacetamide | 0.181 mmol, 0.070 g | FC1=CC=C(CN2C(C3=C(C(N(C(=C3CC2)N(C(C)=O)C)C)=O)OC)=O)C=C1 | C20H22FN3O4
reactant | HBr | Br | BrH
reactant | water | O | H2O
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | N-[6-(4-fluorobenzyl)-4-hydroxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-1-yl]-N-methylacetamide | FC1=CC=C(CN2C(C3=C(C(N(C(=C3CC2)N(C(C)=O)C)C)=O)O)=O)C=C1 | C19H20FN3O4
